US07741326B2
Step 4 1-(3-Fluoro-benzyl)-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide
4-[2-Carbamoyl-1-(3-fluoro-benzyl)-1H-indol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester (76 mg) was dissolved in 4 ml ethanol. To this solution was added 2 M ethanolic hydrochloric acid solution (1 ml.) The reaction mixture was heated at 100° C. for 20 minutes, at which time a crystalline solid formed. The solution was allowed to cool to room temperature and 40 mg of 1-(3-Fluoro-benzyl)-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide hydrochloride salt was collected as a yellow powder. MS: 352 (M+H)+.

reactant | 4-[2-Carbamoyl-1-(3-fluoro-benzyl)-1H-indol-4-yl]-piperidine-1-carboxylic acid tert-butyl ester | 76 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C2C=C(N(C2=CC=C1)CC1=CC(=CC=C1)F)C(N)=O | C26H30FN3O3
reactant | hydrochloric acid | 2 M, 1 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(3-Fluoro-benzyl)-4-piperidin-4-yl-1H-indole-2-carboxylic acid amide | FC=1C=C(CN2C(=CC3=C(C=CC=C23)C2CCNCC2)C(=O)N)C=CC1 | C21H22FN3O
